US04596869
A mixture of ethyl 2-(4-formamidopyrimidine-2-yl)acetate (50.0 g) and selenium dioxide (31.87 g) in N,N-dimethylformamide (240 ml) was stirred for an hour at 70° to 75° C. and cooled to ambient temperature. The precipitated solid was filtered off and the filtrate was evaporated in vacuo to give an oily product. The oil was added to water (750 ml) under stirring, adjusting to pH7 with an aqueous solution of sodium bicarbonate. The precipitated yellow substance was filtered off and washed with water. The filtrate and washings were combined and thereto was added methoxyamine hydrochloride (19.95 g). The mixture was adjusted to pH4 with an aqueous solution of sodium bicarbonate and stirred for 3 hours at ambient temperature. The aqueous reaction mixture was extracted with ethyl acetate and the extract was washed with an aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and evaporated to give ethyl 2-(4-formamidopyrimidin-2-yl)-2-methoxyiminoacetate (syn isomer) (31 g) as a brownish oil.

reactant | ethyl 2-(4-formamidopyrimidine-2-yl)acetate | 50.0 g | C(=O)NC1=NC(=NC=C1)CC(=O)OCC | C9H11N3O3
reactant | selenium dioxide | 31.87 g | [Se](=O)=O | O2Se
reactant | water | 750 ml | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | N,N-dimethylformamide | 240 ml | CN(C=O)C | C3H7NO
product | ethyl 2-(4-formamidopyrimidin-2-yl)-2-methoxyiminoacetate | 31 g | C(=O)NC1=NC(=NC=C1)C(C(=O)OCC)=NOC | C10H12N4O4
